2177-01-13 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2177-1-12**] 10:00 PM
 BLOOD CULTURED - At [**2177-1-12**] 10:53 PM
   x2
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-13**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 48 (48 - 67) bpm
   BP: 123/67(81) {117/57(73) - 153/87(101)} mmHg
   RR: 22 (6 - 22) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 74 Inch
             Total In:
                                                                  1,270 mL
                                                                     72 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                     30 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,200 mL
   Urine:
                                                                    750 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                 -1,128 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of flat cm. RIJ cordis in place
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. III/VI SEM with radiation to the carotids No r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   188 K/uL
   13.3 g/dL
   94 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.7 mEq/L
   13 mg/dL
   110 mEq/L
   144 mEq/L
   37.2 %
   9.0 K/uL
        [image002.jpg]
                            [**2177-1-13**]  05:51 AM
   WBC
   9.0
   Hct
   37.2
   Plt
   188
   Cr
   1.1
   TropT
   0.03
   Glucose
   94
   Other labs: PT / PTT / INR:13.7/28.8/1.2, CK / CKMB /
   Troponin-T:177/3/0.03, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   CXR: no acute cardiopulmonary process
   Assessment and Plan
   54 yo M with bicuspid aortic valve presents with pre-syncope and found
   to be in complete heart block.
   .
   # RHYTHM: Pt was found to be in complete heart block with 3-7s pauses.
   Acute onset and unclear cause. A temp wire was successfully placed in
   the ED and pacing.  Patient no history of ischemia or MI. Possible AS
   with calcification leading to conduction disorder, lyme, abscess are
   other possibilities.
   - cont to monitor on tele
   - EP following
   - NPO after midnight for pacer placement
   - atropine at bedside
   - TTE
   - f/u lyme serologies
   - TSH
   - ESR/CRP
   - check BCx
   .
   # CORONARIES: No evidence of ischemia. CE negative x1.
   - cycle CE
   - ASA 325mg daily pedning ROMI
   - ECG in AM
   .
   #. Bicuspid AS: Pt reports he has bicuspid AS. + murmur on exam. No CHF
   or CP. Syncopal episode most likely from CHB rather then AS
   - TTE to eval
   - monitor patient as he is pre-load dependent
   .
   # PUMP: euvolemic on exam
   - daily weights, I/O and monitor resp status
   - TTE
   .
   # Leukocytosis: WBC 11.7, afebrile and no localizing symptoms. CXR no
   consolidation. No bandemia.
   - will obtain blood cx in the off chance that he has cardiac abscess
   leading to heart block
   - UA
   - trend leukocytosis and fever curve
   .
   FEN: NPO after midnight
   .
   ACCESS: RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparing sq
   -Pain management with tylenol
   -Bowel regimen
   .
   CODE: Full
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-12**] 09:48 PM
   Cordis/Introducer - [**2177-1-12**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2177-01-14 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on Doxycycline per EP for empiric treatment of  Lyme.  Lyme
   serology negative.
   - EP recs: no veg on TEE, no pacemaker today.
   - had several episodes of asystole (5 missed beats), pacer was not
   being sensed or paced appropriately.  EP called.  Pacer was thought to
   be malpositioned, adjusted.  Tele then was catching many PVCs
   suggesting pace wire was too far.  CXR confirmed this.  Readjusted with
   Dr. [**Last Name (STitle) **].  Was doing well for a few minutes.  Then developed paced
   tachycardia rate of 110.  (Pacer set to maintain rate > 60.)  Developed
   into polymorphic VT, with severe headache, nausea, and chest pain.
   Pace wire was pulled back 5 cm.  Stopped after 10 minutes.  Did not
   require cardioversion.  Pacer was still positioned, with some sensing
   and response.  However, was still pacing on T waves.  Pacer was turned
   off.  Pt developed pauses to 11 s.  EP called and was coming in.  Had
   more pauses.  Pt refused another attempt at temp pace wire.  Had more
   frequent pauses.  Was about to start Dopamine, when pt agreed to temp
   wire.   Temp wire placed, pacing appropriately.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-1-13**] 10:40 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2177-1-13**] 02:15 PM
   Fentanyl - [**2177-1-13**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   NO CP, SOB, HA, Dizziness, LH, Abd Pain, N/V
   Flowsheet Data as of  [**2177-1-14**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 79 (49 - 147) bpm
   BP: 107/76(83) {66/41(49) - 159/102(113)} mmHg
   RR: 9 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 91.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,160 mL
                                                                    151 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,440 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,250 mL
   Urine:
                                                                  2,500 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                 -1,099 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   ejection murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: CN2-12 intact.
   Labs / Radiology
   296 K/uL
   104g/dL
   1.2 mg/dL
   25 mEq/L
   5 mEq/L
   11 mg/dL
   108 mEq/L
   139                    mEq/L
   38.2 %
   10.9              K/uL
        [image002.jpg]
                            [**2177-1-13**]  05:51 AM
                            [**2177-1-14**]  12:01 AM
   WBC
   9.0
   Hct
   37.2
   Plt
   188
   Cr
   1.1
   1.5
   TropT
   0.03
   Glucose
   94
   124
   Other labs: PT / PTT / INR:13.4/29.6/1.1, CK / CKMB /
   Troponin-T:177/3/0.03, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Imaging: TTE:  Bicuspid aortic valve with thickened leaflets and
   moderate aortic stenosis/mild-moderate aortic regurgitation. No
   discrete vegetation seen (does not exclude). Normal biventricular
   cavity sizes with preserved global and regional biventricular systolic
   function.
   If clinically indicated, a TEE would be better able to define the
   aortic valve for possible vegetations.
   TEE:  Bicuspid aortic valve with thickened leaflets but without
   discrete vegetation. Mild-to-moderate aortic regurgitation. Significant
   aortic stenosis.
   Microbiology: 2nd lyme serology pending
   1st lyme serology negative
   bcx pending
   Assessment and Plan
 HEART BLOCK, COMPLETE (CHB)
   54 yo M with bicuspid aortic valve presents with pre-syncope and found
   to be in complete heart block.
   # RHYTHM: Pt was found to be in complete heart block with 3-11s pauses.
   Acute onset and unclear cause. A temp wire was placed in the ED and
   pacing.  Was poorly positioned, causing period of NSVT/VT, requiring
   several readjustments.  Finally replaced under fluoro, proximal to the
   apex, but sensing and capturing appropriately.    Patient no history of
   ischemia or MI. Possible AS with calcification leading to conduction
   disorder.  Lyme is also a possibility given h/o tick bites, despite
   negative Lyme titer.
   - currently on doxycycline for empiric tx of lyme conduction abn,
   although conduction abnormalities should be treated with IV ceftriaxone
   followed by 3 weeks of oral therapy.
   - pt pacing to prevent asystole
   - requires IV pacer
   - cont to monitor on tele
   - EP following
   - atropine at bedside, dopamine if block persits and pacing
   malfunctioning
   - TEE shows no endocarditis
   # CORONARIES: No evidence of ischemia.
   - f/u ECG
   - expect CE [**Last Name (LF) 1199**], [**First Name3 (LF) 116**] defer cycling of enzymes, given multiple events
   at pace wire platement
   #. Bicuspid AS: Pt reports he has bicuspid AS. + murmur on exam. No CHF
   or CP. Syncopal episode most likely from CHB rather then AS
   - moderate aortic valve stenosis (valve area 1.1cm2).
   # PUMP: euvolemic on exam
   - daily weights, I/O and monitor resp status
   # Leukocytosis: WBC 11.7, afebrile and no localizing symptoms. CXR no
   consolidation. No bandemia.
   - trend leukocytosis and fever curve
   #FEN: NPO after midnight
   #ACCESS: RIJ
   #PROPHYLAXIS:
   -DVT ppx with heparin sq
   -Pain management with tylenol
   -Bowel regimen
   #CODE: Full   (Of note, patient does not wish to be intubated if not
   reversible pathology)
   #DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-12**] 09:48 PM
   Cordis/Introducer - [**2177-1-12**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2177-01-15 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2177-1-14**] 11:00 AM
 CORDIS/INTRODUCER - STOP [**2177-1-14**] 04:14 PM
 CARDIAC CATH - At [**2177-1-14**] 04:30 PM
   returned from cath
   - right femoral line was d/c'ed.
   - left sided pace maker placed.
   - vanco tonight and clinda tomorrow x2d. CXR in morning.
   - post-catch check negative for hematoma, bruit
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-1-14**] 03:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-15**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 67 (66 - 92) bpm
   BP: 98/67(74) {98/67(74) - 128/88(98)} mmHg
   RR: 12 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 91.3 kg
   Height: 74 Inch
             Total In:
                                                                  1,380 mL
                                                                    355 mL
   PO:
                                                                    840 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    540 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                    400 mL
   Urine:
                                                                  3,450 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   ejection murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), left sided pacer dressing c/d/i
   Abdominal: Soft, Non-tender, Bowel sounds present
   R groin: no hematoma, no bruit, dressing c/d/i
   Neurologic: CN2-12 intact.
   Labs / Radiology
   204 K/uL
   15.2 g/dL
   121 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.5 mEq/L
   12 mg/dL
   105 mEq/L
   140 mEq/L
   42.9 %
   12.0 K/uL
        [image002.jpg]
                            [**2177-1-13**]  05:51 AM
                            [**2177-1-14**]  12:01 AM
                            [**2177-1-14**]  06:07 AM
                            [**2177-1-15**]  03:32 AM
   WBC
   9.0
   10.9
   12.0
   Hct
   37.2
   38.2
   42.9
   Plt
   188
   227
   204
   Cr
   1.1
   1.5
   1.2
   1.2
   TropT
   0.03
   Glucose
   94
   124
   104
   121
   Other labs: PT / PTT / INR:13.4/29.6/1.1, CK / CKMB /
   Troponin-T:177/3/0.03, Albumin:4.0 g/dL, Ca++:9.3 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   MICRO:
   Lyme serology: negative
   Repeat Lyme: pending
   BCx: pending
   Assessment and Plan
   54 yo M with bicuspid aortic valve presents with pre-syncope and found
   to be in complete heart block.
   # RHYTHM: Pt was found to be in complete heart block with 3-11s pauses.
   Acute onset and unclear cause. Patient no history of ischemia or MI.
   Possible AS with calcification leading to conduction disorder.  Lyme is
   also a possibility given h/o tick bites, despite negative Lyme titer.
   Pt had permanent pacemaker placed on left side. No further episodes of
   abnormal rhythm.
   - Vanc x1, clinda x2days
   - CXR this AM
   - currently on doxycycline for empiric tx of lyme conduction abn
 d/c
   today as Lyme serologies are negative
   - monitor on tele
   - EP recs appr
   - TEE shows no endocarditis
   - Percocet for pain control
   # CORONARIES: No evidence of ischemia.
   - f/u ECG
   #. Bicuspid AS: Pt reports he has bicuspid AS. + murmur on exam. No CHF
   or CP. Syncopal episode most likely from CHB rather then AS
   - moderate aortic valve stenosis (valve area 1.1cm2).
   # PUMP: euvolemic on exam
   - daily weights, I/O and monitor resp status
   # Leukocytosis: WBC 12, afebrile and no localizing symptoms. CXR no
   consolidation. No bandemia.
   - trend leukocytosis and fever curve
   #FEN: cardiac diet
   #ACCESS: PIV
   #PROPHYLAXIS:
   -DVT ppx with heparin sq
   -Pain management with percocet
   -Bowel regimen with docusate, senna
   #CODE: Full   (Of note, patient does not wish to be intubated if not
   reversible pathology)
   #DISPO: d/c home today pending CXR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-12**] 09:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: